US07531561B2
4-Benzyl-2-diphenylmethyl-1,2,4-thiadiazolidine-3,5-dione (6)
Reagents: Benzylisothiocyanate (6.5 mmol, 0.85 mL), diphenylmethyl-isocyanate (6.5 mmol, 1.23 mL) and SO2Cl2 (6.5 mmol, 0.52 mL) in diethyl ether (25 mL). Isolation: filtration of reaction mixture. Purification: recrystallization from MeOH.

reactant | Benzylisothiocyanate | 6.5 mmol, 0.85 mL | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | diphenylmethyl-isocyanate | 6.5 mmol, 1.23 mL | C1(=CC=CC=C1)C(C1=CC=CC=C1)N=C=O | C14H11NO
reactant | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 4-Benzyl-2-diphenylmethyl-1,2,4-thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)N1C(N(SC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H18N2O2S
